US07309791B2
Step A: methyl(2S)-3-(4-hydroxyphenyl)-2-[(4-phenyl-1,3-thiazol-2-yl)amino]propionate
15.40 g (0.1 mol) of phenacyl chloride and 8.66 g (0.107 mol) of dry sodium thiocyanate in ethanol (200 ml) were stirred for 3 h at 50° C. The solution of 19.51 g (0.1 mol) of (S)-tyrosine methyl ester in ethanol (100 ml) was added in one portion and the reaction mixture was stirred for 12 h. After removing ethanol by distillation, water and ethyl acetate were added. Aqueous phase was extracted twice with ethyl acetate, combined organic phases were dried over sodium sulfate, and the solvent was evaporated. The product was purified by chromatography. The yield was 20.54 g (58%). MS (ES) 354 (M+, 100%)

reactant | phenacyl chloride | 0.1 mol, 15.40 g | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
reactant | sodium thiocyanate | 0.107 mol, 8.66 g | [S-]C#N.[Na+]
reactant | (S)-tyrosine methyl ester | 0.1 mol, 19.51 g | COC([C@@H](N)CC1=CC=C(C=C1)O)=O | C10H13NO3
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | methyl(2S)-3-(4-hydroxyphenyl)-2-[(4-phenyl-1,3-thiazol-2-yl)amino]propionate | OC1=CC=C(C=C1)C[C@@H](C(=O)OC)NC=1SC=C(N1)C1=CC=CC=C1 | C19H18N2O3S
